US04510141
using 10.00 g (0.037 mol) of 1-(2-chloro-3-pyridyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid and 15.80 g (0.128 mol) of 4-methoxyaniline there is obtained 5-(4-methoxyphenyl)-4,5-dihydropyrido[2,3-e][1,2,4]triazolo[1,5-a]pyrazine-2-carboxylic acid and the methyl ester thereof which, after recrystallisation from methylene chloride/isopropanol, melts at 190°-196°;

reactant | 1-(2-chloro-3-pyridyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid | 0.037 mol, 10.00 g | ClC1=NC=CC=C1N1N=C(N=C1CCl)C(=O)O | C9H6Cl2N4O2
reactant | 4-methoxyaniline | 0.128 mol, 15.80 g | COC1=CC=C(N)C=C1 | C7H9NO
product | 5-(4-methoxyphenyl)-4,5-dihydropyrido[2,3-e][1,2,4]triazolo[1,5-a]pyrazine-2-carboxylic acid | COC1=CC=C(C=C1)N1CC=2N(C3=C1N=CC=C3)N=C(N2)C(=O)O | C16H13N5O3
